US08202858B2
4-(tert-Butoxycarbonylamino-methyl)-3-fluorobenzoic Acid Methyl Ester
To a solution of 4-aminomethyl-3-fluorobenzoic acid methyl ester from Example E3.4 (1.5 g, 8.2 mmol) in dichloromethane (20 ml) were added di-tert-butyl dicarbonate (2.3 g, 11 mmol) and triethylamine (1.4 ml, 10 mmol). The mixture was stirred for 18 h, washed with 0.3M KHSO4 and brine and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 10% EtOAc:90% pet. ether) to give a white solid identified as the title compound (1.4 g, 60%).

reactant | 4-aminomethyl-3-fluorobenzoic acid methyl ester | COC(C1=CC(=C(C=C1)CN)F)=O | C9H10FNO2
reactant | di-tert-butyl dicarbonate | 11 mmol, 2.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(tert-Butoxycarbonylamino-methyl)-3-fluorobenzoic Acid Methyl Ester | 1.4 g, 60% | COC(C1=CC(=C(C=C1)CNC(=O)OC(C)(C)C)F)=O | C14H18FNO4
